US05422358
Preparation of 3-(R,S)-(1-cyano-1,1-diphenylmethyl)-1-(3-phenylpropyl)piperidine
A mixture containing 3-(R,S)-(1-cyano-1,1-diphenylmethyl)piperidine (0.3 g--see EP-A-0178947), 1-bromo-3-phenylpropane (0.238 g), anhydrous potassium carbonate (0.4 g) and acetonitrile (10 ml) was heated under reflux for 5 hours. The mixture was partitioned between dichloromethane (30 ml) and 10% aqueous potassium carbonate (30 ml), the layers separated, and the aqueous layer extracted with dichloromethane (2×20 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated vacuo to give a gum which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 2%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a gum, yield 0.4g.

reactant | 3-(R,S)-(1-cyano-1,1-diphenylmethyl)piperidine | 0.3 g | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNCCC1 | C19H20N2
reactant | 1-bromo-3-phenylpropane | 0.238 g | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | potassium carbonate | 0.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-(R,S)-(1-cyano-1,1-diphenylmethyl)-1-(3-phenylpropyl)piperidine | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CCC1)CCCC1=CC=CC=C1 | C28H30N2
